US08222245B2
Ethyl 3-[9-(5-{5-chloro-6-[(1-methylethyl)oxy]-3-pyridinyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]propanoate
To a solution of 9-(5-{5-chloro-6-[(1-methylethyl)oxy]-3-pyridinyl}-1,2,4-oxadiazol-3-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride (Preparation 90) (80 mg, 0.189 mmol) in acetonitrile (10 ml) was added N,N-diisopropylethylamine (0.066 ml, 0.378 mmol) followed by ethyl 3-bromopropanoate (0.048 ml, 0.378 mmol). The reaction mixture was heated at 80° C. overnight. A further 1 equivalent of N,N-diisopropylethylamine and ethyl 3-bromopropanoate were added and heating continued overnight. The reaction mixture was cooled and evaporated. The residue was purified by column chromatography on silica. Elution with 40-60% ethyl acetate in cyclohexane to give the title compound as an olive green coloured oil (28 mg).

reactant | 9-(5-{5-chloro-6-[(1-methylethyl)oxy]-3-pyridinyl}-1,2,4-oxadiazol-3-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 0.189 mmol, 80 mg | Cl.ClC=1C=C(C=NC1OC(C)C)C1=NC(=NO1)C1=CC=CC=2CNCCOC21
reactant | N,N-diisopropylethylamine | 0.378 mmol, 0.066 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl 3-bromopropanoate | 0.378 mmol, 0.048 ml | BrCCC(=O)OCC | C5H9BrO2
reactant | N,N-diisopropylethylamine | 1 equivalent | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | Ethyl 3-[9-(5-{5-chloro-6-[(1-methylethyl)oxy]-3-pyridinyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]propanoate | 28 mg | ClC=1C=C(C=NC1OC(C)C)C1=NC(=NO1)C1=CC=CC=2CN(CCOC21)CCC(=O)OCC | C24H27ClN4O5
